US07459451B2
To a stirred solution of 5-bromonicotinaldehyde (1 g) and ethynyltrimethylsilane (792 mg) in Et3N (15 ml) was added tetrakis(triphenylphosphine)palladium (124 mg) and copper(I) iodide (51 mg). After 4 hours, the resulting mixture was filtrated and evaporated. The residue was dissolved in EtOAc and washed successively with dil. NH3aq, water and brine. The organic layer was dried over MgSO4 and evaporated. The residue was purified with silica gel column chromatography to give 5-[(trimethylsilyl)ethynyl]nicotinaldehyde as a slightly yellow oil.

reactant | 5-bromonicotinaldehyde | 1 g | BrC=1C=NC=C(C=O)C1 | C6H4BrNO
reactant | ethynyltrimethylsilane | 792 mg | C(#C)[Si](C)(C)C | C5H10Si
solvent | Et3N | 15 ml | CCN(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 124 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 51 mg | [Cu]I
product | 5-[(trimethylsilyl)ethynyl]nicotinaldehyde | C[Si](C)(C)C#CC=1C=NC=C(C=O)C1 | C11H13NOSi
